US05274116
2-Phenyl-1H-pyrrol-1-amine
To a stirred suspension consisting of 2-(2-phenyl-1H-pyrrol-1-yl)-1H-isoindol-1,3(2H)dione (7.2 g) in abs. ethanol (150 ml) was added hydrazine (3.9 ml) at room temperature. The reaction mixture was warmed to reflux for 2 hours and allowed to cool to room temperature overnight. The solid by-product was filtered and washed with ether. The combined filtrates were concentrated in vacuo to give an oil which solidified on standing. Recrystallization from ether afforded 3.9 g of the product as a solid, m.p. 80°-82° C.

reactant | 2-(2-phenyl-1H-pyrrol-1-yl)-1H-isoindol-1,3(2H)dione | 7.2 g | C1(=CC=CC=C1)C=1N(C=CC1)N1C(C2=CC=CC=C2C1=O)=O | C18H12N2O2
reactant | hydrazine | 3.9 ml | NN | H4N2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-Phenyl-1H-pyrrol-1-amine | 3.9 g | C1(=CC=CC=C1)C=1N(C=CC1)N | C10H10N2
